US07576082B2
A solution of 4-chlorophenyl magnesium bromide in diethyl ether (1.0 M, 25 mL, 25 mmol) (Aldrich) was added dropwise with magnetic stirring to a suspension of 6-chloroisatin (1.82 g, 10 mmol) in tetrahydrofuran (40 mL) under argon with cooling in a −25° C. bath at such a rate that reaction temperature was kept below −10° C. (approximately 30 minutes). Cooling bath was then removed and mixture allowed to warm to room temperature. After stirring for an additional 2 hour, 15% aqueous ammonium chloride solution (25 mL) and water (50 mL) were added and mixture extracted with ethyl acetate (2×75 mL). Ethyl acetate layers were then washed with water (75 mL), brine (75 mL), combined, dried (MgSO4), filtered and concentrated. Residue was stirred in dichloromethane (100 mL) at room temperature for 15 minutes and filtered to give crude rac-6-chloro-3-(4-chloro-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one as an off-white powder. This was used in the next step without further purification.

reactant | 4-chlorophenyl magnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | diethyl ether | 25 mmol, 1.0 M, 25 mL | C(C)OCC | C4H10O
reactant | 6-chloroisatin | 10 mmol, 1.82 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-(4-chloro-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(O)C1=CC=C(C=C1)Cl | C14H9Cl2NO2
